US06380239B1
A mixture of 3-nitrophthalic anhydride (1.5 g, 7.77 mmol) and L-glutamic acid (1.2 g, 7.77 mmol) in DMF (15 mL) is heated at 85° C. for 6 hours. The mixture is concentrated in vacuo and the residue is purified by chromatography (silica gel, CH2Cl2:CH3OH 95:5) to give 1-(4-nitro-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid (1.51 g, 60%); 1H NMR (DMSO-d6) δ8.32 (d, J=7.9 Hz, 1H), 8.21 (d, J=7.3 Hz, 1H), 8.10 (t, J=7.8 Hz, 1H), 4.88-4.82 (dd, J=3.0 and 10.0 Hz, 1H), 2.35-2.20 (m, 4H).

reactant | 3-nitrophthalic anhydride | 7.77 mmol, 1.5 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | L-glutamic acid | 7.77 mmol, 1.2 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(4-nitro-1,3-dioxoisoindolin-2-yl)propane-1,3-dicarboxylic acid | 1.51 g, 60% | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C(CCC(=O)O)C(=O)O)=O | C13H10N2O8
